US07049310B2
Preparation of 2-(methylaminomethyl)naphthalene
To a stirred solution of 40 wt % methylamine in H2O (50 mL, 581 mmole) in THF (50 mL) at 0° C. was added 2-(bromomethyl)naphthalene (10 g, 43 mmole) in one portion. The reaction was allowed to warm to RT and stirred for 16 hr, then was then concentrated under vacuum. The residue was taken up in Et2O and washed with 1.0 N NaOH then with brine, dried (Na2SO4), and concentrated to dryness. Purification by flash chromatography on silica gel (98:2 to 9:1 CHCl3/methanol containing 5% NH4OH) gave the title compound (3.95 g, 54%) as a clear oil: 1H NMR (400 MHz, CDCl3) δ 7.85 (m, 3 H), 7.79 (s, 1 H), 7.49 (m, 3 H), 3.94 (s, 2 H), 2.53 (s, 3 H).

reactant | methylamine | CN | CH5N
reactant | H2O | 581 mmole, 50 mL | O | H2O
reactant | 2-(bromomethyl)naphthalene | 43 mmole, 10 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(methylaminomethyl)naphthalene | 3.95 g, 54% | CNCC1=CC2=CC=CC=C2C=C1 | C12H13N
